US08003796B2
Step B. Preparation of tert-butyl 4-(2-oxo-1-(pyridin-3-yl)-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate
A mixture of 3-iodopyridine (287 mg, 1.400 mmol, TCI), tert-butyl 4-(2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate (206 mg, 0.7 mmol), quinolin-8-ol (40.6 mg, 0.280 mmol, Alfa Aesar), copper(I) iodide (9.49 μL, 0.280 mmol, Aldrich) and cesium carbonate (296 mg, 0.910 mmol, Aldrich) in DMSO (0.8 mL) was heated at 125° C. for 3 hrs. The reaction mixture was diluted with EtOAC and water and filtrated. The filtrate was separated and the aqueous layer was extracted further with EtOAc. The combined organic layers were washed with brine, dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (0-10% MeOH/CH2Cl2) to give the title compound (165.7 mg, 64%) as a yellow solid. MS (ESI) 372 (M+H).

reactant | 3-iodopyridine | 1.400 mmol, 287 mg | IC=1C=NC=CC1 | C5H4IN
reactant | tert-butyl 4-(2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | 0.7 mmol, 206 mg | O=C1NC=CC(=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O4
reactant | quinolin-8-ol | 0.280 mmol, 40.6 mg | N1=CC=CC2=CC=CC(=C12)O | C9H7NO
reactant | cesium carbonate | 0.910 mmol, 296 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 0.8 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
catalyst | copper(I) iodide | 0.280 mmol, 9.49 μL | [Cu]I
product | tert-butyl 4-(2-oxo-1-(pyridin-3-yl)-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | 165.7 mg, 64% | O=C1N(C=CC(=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)C=1C=NC=CC1 | C20H25N3O4
